US08066974B2
b) N,N′-Diallyl-2,4,6-triiodo-5-isocyanato-N,N′-dimethyl-isophthalamide
To a solution of N,N′-diallyl-5-amino-2,4,6-triiodo-N,N′-dimethyl-isophthalamide (5 g, 7.5 mmol) in 1,4-dioxane (10 mL) was added ˜11 equivalents of 20% phosgene solution in toluene (35 mL, 70 mmol) at ambient temperature, the solution was heated at 60° C. for 15 hours. The reaction was allowed to cool to ambient temperature and then concentrated at reduced pressure to yield an off white, semi-crystalline solid. Dioxane (50 mL×2) was added and removed slowly at reduced pressure to give an off white, semi-crystalline solid which was placed on a vacuum line to remove any residual solvent. The material was used without further purification.

reactant | N,N′-diallyl-5-amino-2,4,6-triiodo-N,N′-dimethyl-isophthalamide | 7.5 mmol, 5 g | C(C=C)N(C(C1=C(C(C(=O)N(C)CC=C)=C(C(=C1I)N)I)I)=O)C | C16H18I3N3O2
reactant | phosgene | ˜11 equivalents | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 70 mmol, 35 mL | C1(=CC=CC=C1)C | C7H8
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | Dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | N,N′-Diallyl-2,4,6-triiodo-5-isocyanato-N,N′-dimethyl-isophthalamide | C(C=C)N(C(C1=C(C(C(=O)N(C)CC=C)=C(C(=C1I)N=C=O)I)I)=O)C | C17H16I3N3O3
